US07576215B2
3-(8-CHLORO-3-METHYLQUINOLIN-4-YL)PHENOL
The title compound was prepared from 3-benzyl-4-bromo-8-chloro-quinoline and 3-hydroxyphenyl boronic acid according to the procedure of Example 1. MS (ES) m/z 267.9.

reactant | 3-benzyl-4-bromo-8-chloro-quinoline | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1Br)Cl | C16H11BrClN
reactant | 3-hydroxyphenyl boronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-(8-CHLORO-3-METHYLQUINOLIN-4-YL)PHENOL | ClC=1C=CC=C2C(=C(C=NC12)C)C=1C=C(C=CC1)O | C16H12ClNO
